US07354917B2
(i) 2-Phenethylamino-ethanol
A mixture of ethanolamine (10 g, 0.162 mol) and 1-phenylethyl bromide (5 g, 0.027 mol) was stirred at 120° C. for 3 h. The reaction mixture was partitioned between water and dichloromethane. Organic layer was washed with water and brine, dried over sodium sulfate and concentrated. The residue was purified by column chromatography over silica gel using 3% methanol in dichloromethane to afford (2.5 g) of desired product as a solid.

reactant | ethanolamine | 0.162 mol, 10 g | C(O)CN | C2H7NO
reactant | 1-phenylethyl bromide | 0.027 mol, 5 g | C1(=CC=CC=C1)C(C)Br | C8H9Br
product | 2-Phenethylamino-ethanol | 2.5 g | C(CC1=CC=CC=C1)NCCO | C10H15NO
